US03963717
To a stirred solution of 3.2 g. of 1-isopropyl-3,4,6,7-tetrahydro-4-phenyl-furo[3,2-g]quinazolin-2(1H)-one in 150 ml. of dioxane cooled to 8°±5°C. is added dropwise a solution of 2.0 g. of potassium permanganate in 130 ml. of water. After the addition is completed 1.5 ml. of formalin solution is added. The resulting precipitated solids are removed by filtration and the filtrate concentrated in vacuo to give an oil of 1-isopropyl-6,7-dihydro-4-phenyl-furo[3,2-g]quinazolin-2(1H)-one.

reactant | 1-isopropyl-3,4,6,7-tetrahydro-4-phenyl-furo[3,2-g]quinazolin-2(1H)-one | C(C)(C)N1C(NC(C2=CC3=C(C=C12)OCC3)C3=CC=CC=C3)=O | C19H20N2O2
reactant | dioxane | O1CCOCC1 | C4H8O2
reactant | potassium permanganate | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | formalin | C=O | CH2O
solvent | water | O | H2O
product | 1-isopropyl-6,7-dihydro-4-phenyl-furo[3,2-g]quinazolin-2(1H)-one | C(C)(C)N1C(N=C(C2=CC3=C(C=C12)OCC3)C3=CC=CC=C3)=O | C19H18N2O2
